US09085540B2
To a mixture of tert-butyl (3R)-3-{[3-bromo-5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (220 mg), neopentyl glycol ester 2-cyano-3-methoxyphenylborate (164 mg), and tetrakistriphenylphosphine palladium (0) (39 mg), dioxane (8.8 mL) was added a 2 M aqueous sodium carbonate solution (836 μL), followed by stirring at 100° C. for 3 hours under an argon atmosphere. After leaving to be cooled, the mixture was subjected to liquid separation by the addition of ethyl acetate and water. The organic phase was dried over anhydrous magnesium sulfate and then the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-200:10:1) to obtain tert-butyl (3R)-3-{[5-carbamoyl-3-(2-cyano-3-methoxyphenyl)-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (208 mg).

reactant | tert-butyl (3R)-3-{[3-bromo-5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate | 220 mg | BrC=1C(=NC(=C(N1)C(N)=O)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C30H44BrN9O3
reactant | sodium carbonate | 2 M, 836 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 8.8 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (3R)-3-{[5-carbamoyl-3-(2-cyano-3-methoxyphenyl)-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate | 208 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)OC)C#N | C38H50N10O4
